US06797725B2
To a solution of 1,2,3,4-di-O-isopropylidene-D-galactopyranose (650 mg, 2.5 mmol) in 1.0 mL of pyridine and 2.0 mL of THF was added a suspension of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride (150 mg, 0.5 mmol) at 0° C. The reaction mixture was then gradually warmed to room temperature, stirred for 4 h, and concentrated. The residue was triturated with water and washed with ether to give 170 mg (65%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3aR, 5aS, 8aS, 8bR)-2,2,7,7-tetramethyl-tetrahydro-bis[1,3]dioxolo[4,5-b;4′,5′-d]pyran-5-ylmethyl ester.

reactant | 1,2,3,4-di-O-isopropylidene-D-galactopyranose | 2.5 mmol, 650 mg | CC1(O[C@H]2[C@H](O[C@H]3[C@@H]([C@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
reactant | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carbonyl chloride | 0.5 mmol, 150 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)Cl)=O | C16H13ClN2O2
solvent | pyridine | 1.0 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid (3aR, 5aS, 8aS, 8bR)-2,2,7,7-tetramethyl-tetrahydro-bis[1,3]dioxolo[4,5-b;4′,5′-d]pyran-5-ylmethyl ester | 170 mg, 65% | CC1(O[C@H]2[C@H](OC([C@H]3[C@@H]2OC(O3)(C)C)COC(=O)N3C(\C(\C2=CC=CC=C32)=C/C=3NC(=CC3C)C)=O)O1)C | C28H32N2O8
